US06509472B2
(R)-2-amino-2-cyclohexyl-1,1-diphenylethanol (2.95 g, 10 mmole) and toluene (60 mL) were charged to a 100 mL single neck flask fitted with a Dean and Stark trap, which was then flushed with nitrogen. The mixture was concentrated by distillation at atmospheric pressure to a volume of 30 mL. Toluene (30 mL) was then added and the mixture was concentrated again by distillation to 30 mL. Toluene (30 mL) was again added and the mixture was concentrated again by distillation to 30 mL. The reaction mixture was cooled to room temperature, trimethylboroxine (0.94 mL, 6.7 mmol) was added and the reaction mixture was stirred at room temperature for 16 hours. Toluene (20 mL) was added and 30 mL of solvent was distilled out. More toluene (30 mL) was added and 30 mL more of the solvent was distilled out. Once again, more toluene (30 mL) was added and then all the solvent was removed by distillation to give (R)-4-cyclohexyl-5,5-diphenyl-2-methyl- 1,3,2-oxazaborolidine.

reactant | (R)-2-amino-2-cyclohexyl-1,1-diphenylethanol | 10 mmole, 2.95 g | N[C@@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C20H25NO
reactant | trimethylboroxine | 6.7 mmol, 0.94 mL | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-4-cyclohexyl-5,5-diphenyl-2-methyl- 1,3,2-oxazaborolidine | C1(CCCCC1)[C@H]1NB(OC1(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H26BNO
